US08865704B2
trans-4-[(5-Methoxy-2-nitro-phenylamino)-methyl]-cyclohexanecarboxylic acid methyl ester
K2CO3 (9.04 g, 65.5 mmol) was added to a solution of 2-Fluoro-4-methoxy-1-nitro-benzene (5.6 g, 32.7 mmol) in DMF (20 ml). The mixture was stirred at room temperature for 30 minutes and then trans-4-Aminomethyl-cyclohexanecarboxylic acid methyl ester (5.60 g, 32.7 mmol) was added. The reaction mixture was heated for 2 hours at 50° C. and then at room temperature overnight. The solvent was removed under reduced pressure and the crude product dissolved in DCM (150 ml) and washed with water (2×150 ml) and then with a solution of citric acid (2×150 ml). The organic solution was dried over Na2SO4, filtered and the solvent removed by evaporation to give 9.6 g of the titled compound.

reactant | K2CO3 | 65.5 mmol, 9.04 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Fluoro-4-methoxy-1-nitro-benzene | 32.7 mmol, 5.6 g | FC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C7H6FNO3
reactant | trans-4-Aminomethyl-cyclohexanecarboxylic acid methyl ester | 32.7 mmol, 5.60 g | COC(=O)[C@@H]1CC[C@H](CC1)CN | C9H17NO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | trans-4-[(5-Methoxy-2-nitro-phenylamino)-methyl]-cyclohexanecarboxylic acid methyl ester | 9.6 g | COC(=O)[C@@H]1CC[C@H](CC1)CNC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C16H22N2O5
